US06562849B1
1-[4-(2-[2-[4-(2,4-Dioxothiazolidin-5-ylmethyl)phenoxymethyl]-1-methyl-1H-benzimidazol-6-yloxy]ethyl)phenyl]-3-[4-(trifluoromethyl)phenyl]urea (exemplification compound number 1-232)
To a mixture of 5-[4-[6-[2-(4-aminophenyl)ethoxy]-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl]thiazolidine-2,4-dione (0.4 g) and N,N-dimethylformamide (10 ml) was added α,α,α-trifluoro-p-tolyl isocyanate (0.17 g) and the mixture was stirred at room temperature for 2 hours and allowed to stand overnight. The reaction mixture was partitioned between ethyl acetate and water. The extract was washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate and then concentrated. To the residue was added a mixture of ethyl acetate and diethyl ether (1:1). The precipitate was isolated by filtration and washed with diethyl ether to afford the title compound (0.4 g, mp 145-147° C.).

reactant | 5-[4-[6-[2-(4-aminophenyl)ethoxy]-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl]thiazolidine-2,4-dione | 0.4 g | NC1=CC=C(C=C1)CCOC=1C=CC2=C(N(C(=N2)COC2=CC=C(CC3C(NC(S3)=O)=O)C=C2)C)C1 | C27H26N4O4S
reactant | α,α,α-trifluoro-p-tolyl isocyanate | 0.17 g | FC(C1=CC=C(C=C1)N=C=O)(F)F | C8H4F3NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-[4-(2-[2-[4-(2,4-Dioxothiazolidin-5-ylmethyl)phenoxymethyl]-1-methyl-1H-benzimidazol-6-yloxy]ethyl)phenyl]-3-[4-(trifluoromethyl)phenyl]urea | 0.4 g | O=C1SC(C(N1)=O)CC1=CC=C(OCC2=NC3=C(N2C)C=C(C=C3)OCCC3=CC=C(C=C3)NC(=O)NC3=CC=C(C=C3)C(F)(F)F)C=C1 | C35H30F3N5O5S
